US08431596B2
[2-(5-Bromo-pyrimidin-2-yloxy)-ethyl]-dimethyl-amine
2-Dimethylaminoethanol (0.113 mL, 1.113 mmol) was suspended in anhydrous tetrahydrofuran (10 mL). Sodium hydride (60% in mineral oil, 0.134 g, 3.334 mmol) was added and the mixture was stirred for 5 minutes. 5-Bromo-2-chloropyrimidine (0.2 g, 1.03 mmol) was added and the mixture was stirred for 2 hours. The reaction mixture was diluted with 10% aqueous ammonium chloride and extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. LCMS method: 1, RT: 0.63 min, MI: 246-248 [M+1].

reactant | 2-Dimethylaminoethanol | 1.113 mmol, 0.113 mL | CN(CCO)C | C4H11NO
reactant | Sodium hydride | 3.334 mmol, 0.134 g | [H-].[Na+]
reactant | 5-Bromo-2-chloropyrimidine | 1.03 mmol, 0.2 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | [2-(5-Bromo-pyrimidin-2-yloxy)-ethyl]-dimethyl-amine | BrC=1C=NC(=NC1)OCCN(C)C | C8H12BrN3O
